US04116956
To a suspension of 2.8 parts of 7-chloro-2-hydrazino 5-phenyl-3H-1,4-benzodiazepine in 40 parts by volume of formamide is added 1 part by volume of concentrated sulfuric acid. The resulting solution is left standing for 6 hours and then warmed on a boiling water bath for 30 minutes. The solution is diluted with water, neutralized with sodium bicarbonate and extracted with chloroform. The chloroform extract is washed with water and dried over anhydrous sodium sulfate, followed by evaporation of the solvent. The residue is recrystallized from ethyl acetate to give 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine as colorless flakes. Melting point: 226° C to 227° C.

reactant | 7-chloro-2-hydrazino 5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | formamide | C(=O)N | CH3NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11ClN4
